US04382943
3-[3-(4-Acetamidopiperidino)-propoxy]-7,8,9,10tetrahydro-6H-dibenzo[b,d]pyran-6-one
A mixture of 17.3 g. (0.051 mole) 3-(3-bromopropoxy)-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran-6-one, 7.3 g. (0.051 mole) 4-acetamidopiperidine, 5.2 g. triethylamine and 100 ml. tetrahydrofuran is heated under reflux for 14 hours and then cooled and filtered. The precipitate obtained is washed with tetrahydrofuran and water and dried in a vacuum. There are obtained 11.3 g. (55% of theory) of the desired compound (m.p. 167°-168° C.) which is identical to the compound of Example 23.

reactant | 3-(3-bromopropoxy)-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran-6-one | 0.051 mole | BrCCCOC=1C=CC2=C(OC(C3=C2CCCC3)=O)C1 | C16H17BrO3
reactant | 4-acetamidopiperidine | 0.051 mole | C(C)(=O)NC1CCNCC1 | C7H14N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[3-(4-Acetamidopiperidino)-propoxy]-7,8,9,10tetrahydro-6H-dibenzo[b,d]pyran-6-one | C(C)(=O)NC1CCN(CC1)CCCOC=1C=CC2=C(OC(C3=C2CCCC3)=O)C1 | C23H30N2O4
